US04088646
2.6 g of 5-fluorouracil was suspended in 20 ml of absolute dioxane and 10 ml of absolute pyridine, and 20 g of margaric anhydride was added thereto followed by heating at 80° C for 1 hour with stirring. After the reaction was completed, the solvent was removed under reduced pressure (25 mm Hg), and the residual solid was washed with hot hexane (50° C). Any insoluble matter in the hot hexane was recrystallized from benzene to obtain 5.0 g of 1-N-margaroyl-5-fluorouracil in a yield of 65%. Melting Point: 102° C.

reactant | 5-fluorouracil | 2.6 g | FC=1C(NC(NC1)=O)=O | C4H3FN2O2
reactant | margaric anhydride | 20 g | C(CCCCCCCCCCCCCCCC)(=O)OC(CCCCCCCCCCCCCCCC)=O | C34H66O3
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 1-N-margaroyl-5-fluorouracil | 5.0 g, yield of 65% | C(CCCCCCCCCCCCCCCC)(=O)N1C(=O)NC(=O)C(=C1)F | C21H35FN2O3
